US04973695
Toluene 50 ml, 5-ethyl-2,3-diethoxycarbonylpyridine 10.3 g (0.041 mol), and water 29 ml were mixed in a 200 ml four neck distillation flask with a reflux condenser, and 48% aqueous sodium hydroxide solution 21.9 g was added thereto under vigorous stirring in nitrogen atmosphere and refluxed for 3.5 hours. The reaction mixture was allowed to cool to room temperature and stand still to separate into water layer and toluene layer. The water layer was acidified at 45° to 55° C. with 28.3 g of 50% sulfuric acid, and slowly cooled to 20° C. The resultant white crystals were filtered and washed with 10 ml of cold water. Dried under reduced pressure at 50° to 60° C., 5.9 g of 5-ethylpyridine-2,3-dicarboxylic acid was obtained. The melting point of the obtained crystals was 154° to 156° C. (decomposed). The 5-ethylpyridine-2,3-dicarboxylic acid obtained was recrystallized from a mixed solvent of acetone and n-hexane and gave a melting point of 156.5° C. to 157.5° C. (decomposed).

reactant | Toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-ethyl-2,3-diethoxycarbonylpyridine | 0.041 mol, 10.3 g | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
reactant | sodium hydroxide | 21.9 g | [OH-].[Na+]
solvent | water | 29 ml | O | H2O
product | 5-ethylpyridine-2,3-dicarboxylic acid | 5.9 g | C(C)C=1C=C(C(=NC1)C(=O)O)C(=O)O | C9H9NO4
